US07238808B2
5-[5-(3-Ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine
The title compound was prepared from 5-(3-ethoxy-4-trifluoromethyl-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.3) (400 mg, 1 mmol) and commercially available 2-amino-5-bromopyridine (156 mg, 1 mmol) according to general procedure II. Obtained as a red solid (62 mg, 12%). MS (ISP) 492.2 [(M+H)+]; mp 218° C.

reactant | 5-(3-ethoxy-4-trifluoromethyl-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 1 mmol, 400 mg | C(C)OC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C | C18H11F6N3O
reactant | 2-amino-5-bromopyridine | 1 mmol, 156 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
product | 5-[5-(3-Ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine | C(C)OC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC=2C=CC(=NC2)N | C23H15F6N5O
